US07557067B2
(1) Synthesis of (5-benzylthio-3-chloro-1-methylpyrazol-4-yl)-N-allyloxycarboxylic acid amide
In a suspension of allyloxyamine hydrochloride (2.3 g, 21 mmol) in tetrahydrofuran (20 ml), 2.9 g (29 mmol) of triethylamine was added at 0° C., stirred at room temperature for 5 minutes and then a solution of 5-benzylthio-3-chloro-1-methylpyrazole-4-carboxylic acid chloride (2.1 g, 7.0 mmol) in tetrahydrofuran (10 ml) was added dropwise. After stirring at room temperature for 1 hour, water (100 ml) was added and extracted with ethyl acetate. The resulting ethyl acetate solution was washed with saturated sodium chloride aqueous solution, dried over anhydrous sodium sulfate and the solvent was distilled off to obtain the desired product (2.4 g). Oily substance. Proton nuclear magnetic resonance chemical shift values δ (ppm) (in CDCl3) 3.45 (s, 3H), 4.11 (s, 2H), 4.53 (d, J=6.3 Hz, 2H), 5.34-5.45 (m, 2H), 6.00-6.13 (m, 1H), 7.03-7.06 (m, 2H), 7.24-7.28 (m, 3H), 9.14 (brs, 1H).

reactant | allyloxyamine hydrochloride | 21 mmol, 2.3 g | Cl.C(C=C)ON
reactant | triethylamine | 29 mmol, 2.9 g | C(C)N(CC)CC | C6H15N
reactant | 5-benzylthio-3-chloro-1-methylpyrazole-4-carboxylic acid chloride | 7.0 mmol, 2.1 g | C(C1=CC=CC=C1)SC1=C(C(=NN1C)Cl)C(=O)Cl | C12H10Cl2N2OS
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (5-benzylthio-3-chloro-1-methylpyrazol-4-yl)-N-allyloxycarboxylic acid amide | 2.4 g | C(C1=CC=CC=C1)SC1=C(C(=NN1C)Cl)C(=O)NOCC=C | C15H16ClN3O2S
